data/polar.json
{"reaction_name": "Silyl O-to-C migration", "rsmi": "[Si:1]([CH3:5])([CH3:6])([CH3:7])[O:8][C-:2]([CH3:3])[CH3:4]>>[Si:1]([C:2]([CH3:3])([CH3:4])[O-:8])([CH3:5])([CH3:6])[CH3:7]", "epd": [["LP-/Sigma+", [2], [1, 2]], ["Sigma-/LP+", [1, 8], [8]]]}
{"reaction_name": "Meerwein arylation", "rsmi": "[CH2:2]=[CH:6][C:7]#[N:8].[Cl-:12].[c:1]1([N+:13]#[N:11])[cH:4][cH:9][cH:3][cH:10][cH:5]1>>[N:11]#[N:13].[c:1]1([CH2:2][CH:6]([C:7]#[N:8])[Cl:12])[cH:4][cH:9][cH:3][cH:10][cH:5]1", "epd": [["Pi-/Sigma+", [2, 6], [1, 2]], ["LP-/Sigma+", [12], [6, 12]], ["Sigma-/LP+", [1, 13], [13]]]}
{"reaction_name": "Sodium borohydride reduction", "rsmi": "[Na+:1].[B-:2]([H:3])([H:4])([H:5])[H:6].[CH3:7][C:8](=[O:9])[CH3:10].[O:11]([H:12])[H:13]>>[Na+:1].[B-:2]([H:4])([H:5])([H:6])[O:11][H:13].[CH3:7][C:8]([O:9][H:12])([CH3:10])[H:3]", "epd": [["Sigma-/Sigma+", [2, 3], [2, 11]], ["Pi-/Sigma+", [8, 9], [3, 8]], ["Sigma-/Sigma+", [11, 12], [9, 12]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:2](#[N:13])[C:21]([C:3]#[N:14])=[CH:4][c:25]1[cH:10][cH:16][cH:26][cH:17][cH:11]1.[CH:1]1([C:6](=[O:18])[O:27][CH3:8])[CH2:9][CH2:22][CH2:19][N:24]1[C:20]1=[CH:12][CH2:5][CH2:23][CH2:15][CH2:7]1>>[CH:1]1([C:6](=[O:18])[O:27][CH3:8])[CH2:9][CH2:22][CH2:19][N+:24]1=[C:20]1[CH2:7][CH2:15][CH2:23][CH2:5][CH:12]1[CH:4]([C:21](=[C:2]=[N-:13])[C:3]#[N:14])[c:25]1[cH:10][cH:16][cH:26][cH:17][cH:11]1", "epd": [["LP-/Pi+", [24], [20, 24]], ["Pi-/Sigma+", [12, 20], [12, 4]], ["Pi-/Pi+", [4, 21], [21, 2]], ["Pi-/LP+", [2, 13], [13]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:4][C:15]([F:6])([F:7])[F:8])[S:2](=[O:18])(=[O:19])[c:9]2[c:21]([cH:20][cH:12][cH:22][cH:25]2)[C:24]1=[O:16].[cH:3]1[cH:10][c:11]2[c:26]([cH:14][cH:27]1)[CH:23]=[CH:5][CH:17]2[Li:13]>>[Li+:13].[N:1]1=[C:24]([O-:16])[c:21]2[c:9]([cH:25][cH:22][cH:12][cH:20]2)[S:2]1(=[O:18])=[O:19].[cH:3]1[cH:10][c:11]2[c:26]([cH:14][cH:27]1)[CH:23]=[CH:5][CH:17]2[S:4][C:15]([F:6])([F:7])[F:8]", "epd": [["Sigma-/Sigma+", [17, 13], [17, 4]], ["Sigma-/Pi+", [4, 1], [1, 24]], ["Pi-/LP+", [24, 16], [16]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:6])([Cl:7])[CH:22]=[C:35]([Cl:36])[c:37]2[cH:4][cH:8][cH:30][n:5][c:20]2[C:29]1=[O:17].[N:2]1([c:9]2[c:31]([CH3:11])[cH:25][c:18]([CH3:15])[cH:28][c:34]2[CH3:14])[CH:24]=[CH:23][N:3]([c:10]2[c:32]([CH3:12])[cH:26][c:19]([CH3:16])[cH:27][c:33]2[CH3:13])[C:38]1=[CH2:21]>>[c:1]1([Cl:7])[cH:22][c:35]([Cl:36])[c:37]2[cH:4][cH:8][cH:30][n:5][c:20]2[c:29]1[O-:17].[n+:2]1(-[c:9]2[c:31]([CH3:11])[cH:25][c:18]([CH3:15])[cH:28][c:34]2[CH3:14])[cH:24][cH:23][n:3](-[c:10]2[c:32]([CH3:12])[cH:26][c:19]([CH3:16])[cH:27][c:33]2[CH3:13])[c:38]1[CH2:21][Cl:6]", "epd": [["LP-/Pi+", [2], [38, 2]], ["Pi-/Sigma+", [21, 38], [21, 6]], ["Sigma-/Pi+", [6, 1], [1, 29]], ["Pi-/LP+", [29, 17], [17]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[Li+:24].[O:6]=[S:19](=[O:7])([N:18]([S:15][C:10]([F:12])([F:13])[F:14])[S:20](=[O:8])(=[O:9])[c:39]1[cH:27][cH:34][cH:31][cH:35][cH:28]1)[c:38]1[cH:25][cH:32][cH:30][cH:33][cH:26]1.[c:1]1([CH3:40])[o:29][c:5]([B-:36]23[O:2][CH2:21][C:16]([CH3:11])([CH2:22][O:3]2)[CH2:23][O:4]3)[cH:17][cH:37]1>>[Li+:24].[O:2]1[CH2:21][C:16]2([CH3:11])[CH2:22][O:3][B:36]1[O:4][CH2:23]2.[O:6]=[S:19](=[O:7])([N-:18][S:20](=[O:8])(=[O:9])[c:39]1[cH:27][cH:34][cH:31][cH:35][cH:28]1)[c:38]1[cH:25][cH:32][cH:30][cH:33][cH:26]1.[c:1]1([CH3:40])[o:29][c:5]([S:15][C:10]([F:12])([F:13])[F:14])[cH:17][cH:37]1", "epd": [["Sigma-/Sigma+", [5, 36], [5, 15]], ["Sigma-/LP+", [15, 18], [18]]]}
{"reaction_name": "Aziridinium-assisted substitution", "rsmi": "[Br:1][CH2:4][CH2:6][NH:2][CH3:3].[Cl-:5]>>[Br-:1].[NH:2]([CH3:3])[CH2:6][CH2:4][Cl:5]", "epd": [["LP-/Sigma+", [5], [4, 5]], ["Sigma-/LP+", [1, 4], [1]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O-:10][c:33]1[cH:27][c:22](=[O:28])[n:34]([CH3:15])[c:30](=[O:14])[n:35]1[CH3:29].[O:1]=[S:12](=[O:2])([N:11]([S:9][C:5]([F:6])([F:7])[F:8])[S:13](=[O:3])(=[O:4])[c:32]1[cH:18][cH:25][cH:21][cH:26][cH:19]1)[c:31]1[cH:16][cH:23][cH:20][cH:24][cH:17]1>>[C:5]([F:6])([F:7])([F:8])[S:9][CH:27]1[C:22](=[O:28])[N:34]([CH3:15])[C:30](=[O:14])[N:35]([CH3:29])[C:33]1=[O:10].[O:1]=[S:12](=[O:2])([N-:11][S:13](=[O:3])(=[O:4])[c:32]1[cH:18][cH:25][cH:21][cH:26][cH:19]1)[c:31]1[cH:16][cH:23][cH:20][cH:24][cH:17]1", "epd": [["LP-/Pi+", [10], [33, 10]], ["Pi-/Sigma+", [27, 33], [27, 9]], ["Sigma-/LP+", [9, 11], [11]]]}
{"reaction_name": "Sulfur dioxide insertion-like addition", "rsmi": "[CH3:1][Mg:2][Br:6].[O:3]=[S:5]=[O:4]>>[Br-:6].[CH3:1][S:5](=[O:3])[O-:4].[Mg+2:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 5]], ["Pi-/LP+", [4, 5], [4]], ["Sigma-/LP+", [2, 6], [6]]]}
